US07608639B2
3-[4-(3-Bromo-5-ethyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester
Compound of 1,3-dibromo-5-ethyl-benzene is reacted with 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester as in Example 18 to afford 0.898 g (56%) of the title compound. Rf=0.32 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C19H21O3Br 376, found 377 and 379 (M+1 and M+3, 100%).

reactant | 1,3-dibromo-5-ethyl-benzene | BrC1=CC(=CC(=C1)CC)Br | C8H8Br2
reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
product | 3-[4-(3-Bromo-5-ethyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 0.898 g, 56% | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)CC)Br)C)=O | C19H21BrO3
